US08044068B2
Synthesis of 2-chloroquinoline-4-carboxylic acid dimethylamide
To a mixture of 2-chloroquinoline-4-carboxylic acid (5.0 g) and THF (48 mL) was added a small amount of DMF, followed by addition of thionyl chloride (1.8 mL) with ice cooling. The mixture was stirred at room temperature for 1 h and then at 60° C. for 1 h. The mixture was cooled to room temperature and then concentrated under reduced pressure, and the residue was diluted with chloroform (30 mL). The mixture was ice-cooled, followed by addition of 50% aqueous dimethyl amine (20 mL), and the mixture was stirred for 10 min. 1 M aqueous sodium hydroxide was added, the mixture was extracted with chloroform, the organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=7:3) to obtain the title compound (4.6 g).

reactant | 2-chloroquinoline-4-carboxylic acid | 5.0 g | ClC1=NC2=CC=CC=C2C(=C1)C(=O)O | C10H6ClNO2
reactant | THF | 48 mL | C1CCOC1 | C4H8O
reactant | thionyl chloride | 1.8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
product | 2-chloroquinoline-4-carboxylic acid dimethylamide | 4.6 g | CN(C(=O)C1=CC(=NC2=CC=CC=C12)Cl)C | C12H11ClN2O
